US04643990
A solution of dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate (1 g) and anisole (0.5 ml) in trifluoroacetic acid (2 ml) was stirred at 0° C. for 1 hour. Evaporation of trifluoroacetic acid under reduced pressure gave a residue which was taken up in benzene. Benzene was distilled off by using high vacuum pump. This operation was repeated three times to leave crude dibenzyl N-L-valyl-L-glutamate, which was dissolved in chloroform (20 ml). To this solution were added triethylamine (3 ml) and butyric anhydride (0.5 ml) and the resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into ice water and the separated organic layer was washed with dilute hydrochloric acid solution, a saturated aqueous solution of sodium bicarbonate and brine respectively. After solvent was evaporated, the residue was recrystallized from petroleum ether to afford dibenzyl N-(N-butanoyl-L-valyl)-L-glutamate (613 mg) as crystals.

reactant | dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate | 1 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
reactant | anisole | 0.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | butyric anhydride | 0.5 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | dibenzyl N-(N-butanoyl-L-valyl)-L-glutamate | 613 mg | C(CCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H36N2O6
